US05942511
Synthesis of 3-isopentyloxy-6-allylthiopyridazine
1.15 g(0.05 mol) of metallic sodium was dissolved in 150 ml of absolute methanol and then mixed with 4.98 ml(0.05 mol) of allylmercaptan. To this mixture was added 10.03 g(0.05 mol) of 3-isopentyloxy-6-chloropyridazine. The reaction solution was refluxed for 24 hours and then treated according to the same manner as Example 1 to obtain the title compound as a pale yellow oil.

reactant | sodium | 0.05 mol, 1.15 g | [Na] | Na
reactant | allylmercaptan | 0.05 mol, 4.98 ml | C(C=C)S | C3H6S
reactant | 3-isopentyloxy-6-chloropyridazine | 0.05 mol, 10.03 g | C(CC(C)C)OC=1N=NC(=CC1)Cl | C9H13ClN2O
solvent | methanol | 150 ml | CO | CH4O
product | 3-isopentyloxy-6-allylthiopyridazine | C(CC(C)C)OC=1N=NC(=CC1)SCC=C | C12H18N2OS
